US07319104B2
2-[4-(2-{(5-Cyclohexyl-1,2,4-oxadiazol-3-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid
Similarly prepared from tert-butyl 2-[4-(2-{[(E)-amino(hydroxyimino)methyl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and cyclohexanecarbonyl chloride.

reactant | tert-butyl 2-[4-(2-{[(E)-amino(hydroxyimino)methyl][4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | N\C(=N/O)\N(CCC1=CC=C(OC(C(=O)OC(C)(C)C)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C25H32F3N3O4
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | 2-[4-(2-{(5-Cyclohexyl-1,2,4-oxadiazol-3-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoic acid | C1(CCCCC1)C1=NC(=NO1)N(CCC1=CC=C(OC(C(=O)O)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C28H32F3N3O4
